US05120840
A stirred suspension of 3-oxopregn-4-ene-20-carboxylic acid (1.7 g, 5.0 mmole) in benzene (35 mL) was mixed with pyridine (0.56 mL, 6.25 mmole), cooled in an ice-water bath and treated with oxalyl chloride (0.56 mL, 6.45 mmole). The cooling bath was removed and the reaction mixture was stirred for 1.5 hours. The resulting mixture was then cooled in ice and treated slowly with tert-butylamine (2.9 mL, 29 mmole). After thirty minutes, the mixture was diluted with methylene chloride (100 mL), extracted with 5% hydrochloric acid, dried over magnesium sulfate, treated with charcoal, and filtered. The resulting filtrate was concentrated to give a yellow solid which was dissolved in methylene chloride and purified by flash chromatography (hexane-40% ethyl acetate). The product obtained in this way was subjected to flash chromatography again (hexane-30% ethyl acetate) and the resulting product was recrystallized from acetone to give N-(1,1-dimethylethyl)-3-oxopregn-4-ene-20-carboxamide. IR 3445, 3375, 1670 cm-1.

reactant | 3-oxopregn-4-ene-20-carboxylic acid | 5.0 mmole, 1.7 g | O=C1C=C2CC[C@H]3[C@@H]4CC[C@H](C(C)C(=O)O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C22H32O3
reactant | pyridine | 6.25 mmole, 0.56 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 6.45 mmole, 0.56 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butylamine | 29 mmole, 2.9 mL | C(C)(C)(C)N | C4H11N
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N-(1,1-dimethylethyl)-3-oxopregn-4-ene-20-carboxamide | CC(C)(C)NC(=O)C(C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C26H41NO2
